US08133911B2
A cooled (0-5° C.) mixture of 2-{4-[(1R)-1-methylprop-2-yn-1-yl]benzyl}-4-(trifluoromethyl)-1,3-thiazole (0.115 g, 0.4 mmol), p-toluenesulfonylazide (66 mg, 0.33 mmol), 2,6-toluidine (48 mg, 0.4 mmol) and CuI (5% mmol) in CHCl3 (5 ml) was stirred for 12 h. The reaction was quenched by adding a buffer solution (pH=5.4) and the product extracted with CHCl3 (3×5 ml). After solvent evaporation the crude was purified by flash chromatography to give pure 1-(4-methylbenzensulfonyl)-4-[(1R)-1-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]methyl}phenyl)ethyl]-1H-1,2,3-triazole (0.95 g, 0.20 mmol) as a yellow oil (50%).

reactant | 2-{4-[(1R)-1-methylprop-2-yn-1-yl]benzyl}-4-(trifluoromethyl)-1,3-thiazole | 0.4 mmol, 0.115 g | C[C@H](C#C)C1=CC=C(CC=2SC=C(N2)C(F)(F)F)C=C1 | C15H12F3NS
reactant | p-toluenesulfonylazide | 0.33 mmol, 66 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | CuI | [Cu]I
product | 1-(4-methylbenzensulfonyl)-4-[(1R)-1-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]methyl}phenyl)ethyl]-1H-1,2,3-triazole | 0.20 mmol, 0.95 g, 50% | CC1=CC=C(C=C1)S(=O)(=O)N1N=NC(=C1)[C@H](C)C1=CC=C(C=C1)CC=1SC=C(N1)C(F)(F)F | C22H19F3N4O2S2
